US09278915B2
Intermediate 119: 2,5-Difluoro-4-methoxybenzaldehyde
To a 250 mL three RB flask fitted with magnetic stirrer was charged 1-Bromo-2,5-difluoro-4-methoxybenzene (1.0 g, 4.5 mmol) in 10 mL of THF, cooled −78° C. To the stirred solvent was added n-butyl lithium (3.09 mL, 1.6M solution, 4.95 mmol) drop wise and stirred at same temperature, was added DMF (0.375 g, 5.13 mmol), once the temperature to reached room temperature and stirred about 16 h. Then reaction mixture was quenched with ice-cold water and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous Na2SO4. The removal of solvent under reduced pressure to obtain liquid product (0.77 g, yield: 100.0%).

reactant | 1-Bromo-2,5-difluoro-4-methoxybenzene | 4.5 mmol, 1.0 g | BrC1=C(C=C(C(=C1)F)OC)F | C7H5BrF2O
reactant | n-butyl lithium | 4.95 mmol, 1.6M, 3.09 mL | C(CCC)[Li]
reactant | DMF | 5.13 mmol, 0.375 g | CN(C)C=O | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2,5-Difluoro-4-methoxybenzaldehyde | 0.77 g, yield: 100.0% | FC1=C(C=O)C=C(C(=C1)OC)F | C8H6F2O2
